US07094801B2
4-{3E-[2-(1-Carboxy-1-methyl-ethoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid
2-(2-Formyl-5-methoxy-4-thiophen-2-yl-phenoxy)-2-methyl-propionic acid (Ex-59B, 0.12 g, 0.39 mmol) and 4-acetylbenzoic acid (0.064 g, 0.39 mmol) were dissolved in a dimethylformamide-methanol solution (2.7 mL, 7:3). After complete dissolution, lithium methoxide (0.060 g, 1.6 mmol) was added and the resulting bright orange slurry was stirred in the dark at room temperature for 2 h. Upon completion, as determined by HPLC, the mixture was diluted with water (15 mL), acidified with a 1 N hydrochloric acid solution, and extracted with ethyl acetate (3×15 mL). The combined organic extracts were dried over sodium sulfate and evaporated to dryness. The crude oil was taken up in ethyl alcohol (5 mL) and warmed to 60° C. to obtain complete dissolution and allowed to cool to room temperature. The resulting precipitate was collected on filter paper and dried in vacuo to yield 0.15 g (85%) of the title compound as a dark yellow solid, mp 223–225° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.31 (s, 1H), 8.23 (d, 2H, J=8.1 Hz), 8.10 (d, 2H, J=8.1 Hz), 8.06 (s, 1H), 7.95 (d, 1H, J=16.2 Hz), 7.69 (d, 1H, J=3.0 Hz), 7.55 (d, 1H, J=5.1 Hz), 7.14 (dd, 1H, J=5.1, 3.0 Hz), 6.58 (s, 1H), 3.88 (s, 3H), 1.66 (s, 6H). MS (ESI) m/z=467 ([M+H]+, 100%). Anal. Calcd. for C25H22O7S.⅓H2O: C, 63.55; H, 4.84; S, 6.79. Found: C, 63.39; H, 5.02; S, 6.53.

reactant | 2-(2-Formyl-5-methoxy-4-thiophen-2-yl-phenoxy)-2-methyl-propionic acid | 0.39 mmol, 0.12 g | C(=O)C1=C(OC(C(=O)O)(C)C)C=C(C(=C1)C=1SC=CC1)OC | C16H16O5S
reactant | 4-acetylbenzoic acid | 0.39 mmol, 0.064 g | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
reactant | lithium methoxide | 1.6 mmol, 0.060 g | C[O-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dimethylformamide methanol | 2.7 mL | CN(C=O)C.CO
solvent | water | 15 mL | O | H2O
product | 4-{3E-[2-(1-Carboxy-1-methyl-ethoxy)-4-methoxy-5-thiophen-2-yl-phenyl]-acryloyl}-benzoic acid | 0.15 g, 85% | C(=O)(O)C(C)(OC1=C(C=C(C(=C1)OC)C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)C | C25H22O7S
